US09303033B2
Benzyl alcohol (14.2 μL, 0.138 mmol) was dissolved in NMP (0.2 ml). Sodium Hydride (60%, 5.5 mg, 0.138 mmol) was added and the reaction stirred at room temperature for one hour. A (1:1) mixture of (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione and (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione (10 mg, 0.027 mmol) was added and the mixture was stirred at room temperature for one hour. Water was added and the material was extracted with ethyl acetate. After concentration at the rotary evaporator, addition of methanol formed a precipitate that was filtered and dried. (Z)-5-((2-(benzyloxy)-4-(cyclopropylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione was isolated as a solid (5.6 mg). LCMS (ES): >95% pure, m/z 392 [M+H]+.

reactant | Benzyl alcohol | 0.138 mmol, 14.2 μL | C(C1=CC=CC=C1)O | C7H8O
reactant | Sodium Hydride | 0.138 mmol, 5.5 mg | [H-].[Na+]
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)(=O)C | C13H13N7O4S
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 0.027 mmol, 10 mg | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)C | C13H13N7O3S
solvent | NMP | 0.2 ml | CN1CCCC1=O | C5H9NO
solvent | Water | O | H2O
product | (Z)-5-((2-(benzyloxy)-4-(cyclopropylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C(C1=CC=CC=C1)OC1=NC=2N(C(=N1)NC1CC1)N=CC2\C=C/2\C(NC(N2)=O)=O | C19H17N7O3
